US07687627B2
(S)-N-{3-[4-(4-(2,3,4-Trifluorophenylamino)-4-cyanopiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
By using procedure as described in Example 45 and by reacting (S)-N-{3-[4-(4-oxo-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide with sodium cyanide and 2,3,4-trifluoroaniline the compound was obtained in 68% yield.

reactant | (S)-N-{3-[4-(4-oxo-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | O=C1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C17H20FN3O4
reactant | sodium cyanide | [C-]#N.[Na+]
reactant | 2,3,4-trifluoroaniline | FC1=C(N)C=CC(=C1F)F | C6H4F3N
product | (S)-N-{3-[4-(4-(2,3,4-Trifluorophenylamino)-4-cyanopiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 68% yield | FC1=C(C=CC(=C1F)F)NC1(CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)C#N | C24H23F4N5O3
